US07943584B2
(2a) Allyl 4-O-β-D-glucopyranosyl-D-glucopyranoside
α-D-cellobiose octaacetate (48.59 g, 71.6 mmol) was dissolved in methylene chloride (600 mL), and allyl alcohol (29 ml, 0.43 mol) and trimethylsilyl trifluoromethanesulfonate (16 mL, 86.0 mmol) were added thereto under ice-cooling, followed by stirring of the mixture at room temperature for 1.5 hours. Water (200 mL) was added to the reaction mixture and the mixture was extracted with methylene chloride (200 mL). The extract was washed with a saturated aqueous NaCl solution (100 mL) and after it was dried with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was dissolved in methanol (300 mL) and sodium methoxide (28 mL, 0.14 mol) was added thereto under ice-cooling, followed by stirring of the mixture at room temperature for 2 hours. Dowex 50w×8 was added to the reaction mixture until the reaction mixture became neutral and after it was filtered, the solvent was distilled off under reduced pressure. The residue was purified using silica gel flash column chromatography (ethyl acetate:methanol:water, 8:2:1, V/V) to obtain the desired title compound (24.8 g, yield: 91%) as a pale yellow amorphous substance.

reactant | α-D-cellobiose octaacetate | 71.6 mmol, 48.59 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC(=O)C)OC(=O)C)OC(=O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C | C28H38O19
reactant | allyl alcohol | 0.43 mol, 29 ml | C(C=C)O | C3H6O
reactant | trimethylsilyl trifluoromethanesulfonate | 86.0 mmol, 16 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium methoxide | 0.14 mol, 28 mL | C[O-].[Na+]
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 200 mL | O | H2O
product | Allyl 4-O-β-D-glucopyranosyl-D-glucopyranoside | 24.8 g, yield: 91% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H](C(OCC=C)O[C@@H]1CO)O)O | C15H26O11
